* source COMP
M_M1         N00317 N00321 0 0 MODN W=0.4u L=1u M=1
M_M2         N00291 N00321 N00317 N00291 MODP W=1.2u L=1u M=1
M_M4         N00291 N00754 N00321 N00291 MODP W=0.4u L=1u M=1
M_M3         N00321 N00626 0 0 MODN W=0.4u L=1u M=1
V_V1         N00291 0 3.3
V_V2         N00626 0 1
V_V3         N00754 0  AC 1
+SIN 0 3.3 10 0 0 0
